US07576094B2
A solution of 6-hydroxy-5,7,8-trimethyl-chroman-2-one (1.22 g), triisopropylsilyl chloride (1.71 g) and imidazole (806 mg, 11.84 mmol) in anhydrous DMF (2 mL) was stirred at room temperature for two days. The solution was diluted with ethyl acetate, washed with water and brine. Evaporation and chromatography (silica gel, hexane-ethyl acetate) gave 1.25 g of 5,7,8-trimethyl-6-triisopropylsilanyloxy-chroman-2-one.

reactant | 6-hydroxy-5,7,8-trimethyl-chroman-2-one | 1.22 g | OC=1C(=C2CCC(OC2=C(C1C)C)=O)C | C12H14O3
reactant | triisopropylsilyl chloride | 1.71 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 11.84 mmol, 806 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,7,8-trimethyl-6-triisopropylsilanyloxy-chroman-2-one | 1.25 g | CC1=C2CCC(OC2=C(C(=C1O[Si](C(C)C)(C(C)C)C(C)C)C)C)=O | C21H34O3Si
